US07381719B2
Part B: (±)-6-{4-[2-((trans)-2-Hydroxycyclopentylamino)ethyl]phenoxy}nicotinamide
Heat a mixture of 4-[2-(2-hydroxycyclopentylamino)ethyl]phenol (210.5 mg, 0.95 mmol), K2CO3 (395 mg, 2.85 mmol) and 6-chloronicotinamide (223.4 mg, 1.43 mmol) in 1:3 toluene/DMF (6 mL) at 165° C. for 2 hours, while removing H2O azeotropically with toluene. Remove DMF azeotropically with xylenes and take up the residue in H2O (50 mL) and 10% MeOH in CH2Cl2 (50 mL). Shake and separate the layers. Extract the aqueous layer with 10% MeOH in CH2Cl2 (2×50 mL) and 10% MeOH in EtOAc (50 mL). Combine the organic layers, dry over MgSO4 and concentrate. Concentrate the aqueous layer, which still contains the product by TLC, to dryness and extract the product out with MeOH. Dry the solution with Na2SO4, filter and combine with the organic concentrate above. Concentrate, re-dissolve in MeOH and filter through a Na2SO4 pad. Concentrate and purify by flash chromatography, eluting with 10:15:75 2.0 M NH3 in MeOH/CH2CL2/EtOAc to afford the title compound (137.4 mg) along with the (cis)-isomer of the starting phenol (59.0 mg) recovered: MS ES+342.0 (M+H)+, HRMS calcd for C19H24N3O3 342.1818 (M+H)+, found 342.1812, time 0.34 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 5-95% over 19 min], tR=16.76 min, 100% purity; Anal. Calcd for C19H23N3O3.0.1CH2Cl2.0.1 EtOAc: C, 65.29; H, 6.74; N, 11.71. Found: 65.35; H, 6.61; N, 11.98.

reactant | 4-[2-(2-hydroxycyclopentylamino)ethyl]phenol | 0.95 mmol, 210.5 mg | OC1C(CCC1)NCCC1=CC=C(C=C1)O | C13H19NO2
reactant | K2CO3 | 2.85 mmol, 395 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-chloronicotinamide | 1.43 mmol, 223.4 mg | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | toluene DMF | 6 mL | C1(=CC=CC=C1)C.CN(C)C=O
product | (±)-6-{4-[2-((trans)-2-Hydroxycyclopentylamino)ethyl]phenoxy}nicotinamide | 59.0 mg | O[C@H]1[C@@H](CCC1)NCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C19H23N3O3
